US07291631B2
Using General Procedure B: Reaction of N-{3-hydroxymethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzyl}-acetamide in CH2Cl2 with 5-chloro-3-methyl-pyridine-2-carbaldehyde and NaBH(OAc)3 gave N-(4-{[(5-chloro-3-methyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzyl)-acetamide as a white foam. 1H NMR (CDCl3) δ 1.58 (m, 1H), 2.03 (s, 3H), 2.04 (m, 1H), 2.18 (m, 1H), 2.24 (s, 3H), 2.65 (m, 1H), 2.79 (m, 1H), 3.69 (dd, 2H, J=12.0, 3.0 Hz), 3.79 (d, 1H, J=12.0 Hz), 3.89 (t, 1H, J=9.0 Hz), 4.12 (d, 1H, J=12.0 Hz), 4.21 (m, 1H), 4.39 (d, 2H, J=6.0 Hz), 4.41 (m, 1H), 5.67 (br s, 1H), 7.01 (dd, 1H, J=7.5, 3.0 Hz), 7.14 (d, 1H, J=6.0), 7.24-7.30 (m, 3H), 7.39 (s, 1H), 8.28 (s, 1H), 8.36 (d, 1H, J=3.0 Hz). 13C NMR (CDCl3) δ 18.2, 20.8, 21.7, 23.3, 29.3, 43.4, 53.0, 54.0, 54.3, 57.7, 62.6, 65.9, 121.7, 127.1, 130.6, 131.1, 131.3, 134.6, 135.4, 136.1, 136.7, 137.6, 138.1, 142.4, 144.5, 146.6, 154.6, 156.7, 169.8. HPLC: 97%. ES-MS m/z 479 [M+H]+, 501 [M+Na]+. Anal. Calcd. for C27H31N4O2Cl 0.5 CH2Cl2: C, 62.69; H, 6.24; N, 10.63; Cl, 13.46. Found: C, 62.52; H, 6.18; N, 10.47; Cl, 13.59.

reactant | N-{3-hydroxymethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzyl}-acetamide | OCC=1C=C(CNC(C)=O)C=CC1CNC1CCCC=2C=CC=NC12 | C20H25N3O2
reactant | 5-chloro-3-methyl-pyridine-2-carbaldehyde | ClC=1C=C(C(=NC1)C=O)C | C7H6ClNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-{[(5-chloro-3-methyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzyl)-acetamide | ClC=1C=C(C(=NC1)CN(C1CCCC=2C=CC=NC12)CC1=C(C=C(CNC(C)=O)C=C1)CO)C | C27H31ClN4O2
